data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1459,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1C2(O)CCCC(=O)C2(C)CC[C:1]1=[NH+:2]C(CC1=CC=CC=C1)C(=O)O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7776,"O=C1C2=CC=CC3=CC=CC(=C32)C(=O)N1CCCO[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Br:2].O=C1CCC(=O)N1|((1, 2), 2)"
train,pmechdb_split_0,0,6568,"C1C[CH:1]2C[C:2]23CCC[C+:3]3C1.CC(=O)[O-].CS(=O)(=O)[O-]|((1, 2), 3)"
train,pmechdb_split_0,0,930,"CC(=O)C1=CC=C(Cl)C=C1.COC(N(C)C)[O:1]C.NC1=NN=NN1.O=S(=O)([O-])[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5839,"CC[O-:1].C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4589,"C[CH2:1][C:2](C)=[N:3][O:4][CH:5]=[N+:6](C)C.[Cl-]|((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,3821,"OC(=NCC1=CC=CC=C1)C1=C(C(O)=[O+:1][H:2])C=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5941,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=CC2=C(C=C1)C1CCC3(C)C4(C[CH2:1][C:2]3([OH:3])[CH+:4]C4)C1CC2.O|(3, 2);((2, 1), 4)"
train,pmechdb_split_0,0,7065,"Br[C:1]1([H:2])C=CC=C2C=CC=C[C+:3]21.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4788,"CO[CH:1]=[OH+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9326,"CC1=CC2C(C)(CCC1)C([O][Sn-]([Cl])([Cl])([Cl])[Cl])[CH2:1][C:2](C)(C)[CH+:3]2.Cl|((2, 1), 3)"
train,pmechdb_split_0,0,2439,"C=CC[NH2+:1][H:2].C=CC[NH2+]C(C(O)CCC1=CC=CC=C1)[O-:3].OB(O)C=CC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,750,"CC(C)C.COC1=CC=C(COCC(CC2([Si:1](C)(C)C(C)(C)C)SCCCS2)[O-:2])C=C1.[Li+]|(2, 1)"
train,pmechdb_split_0,0,4630,"ClC1CCCC[C+:1]1N1CCCC1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1150,"C=CCNC(C1=CC=C(OC)C=C1)[O-:1].C=CC[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6303,"CO[CH+:1][CH:2](C)[H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9015,"CBr.O.O=C1CCC2(O)C3CC4=C5C(=C([O:1][B-:2](O)(Br)Br)C=C4)OC1C52CCN3C1CCCCC1|((2, 1), 1)"
train,pmechdb_split_0,0,8695,"CN(C)C1=CC=[N+](C(=O)C[C:1](=[CH2:2])[O-:3])C=C1.O=C1C=CC(C#CC2=CC=CC=C2)([O:4][H:5])C=C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6964,"C1=CC2=C(C=C1)N([O-:1])N=N2.CNC(=O)C(C)N.COC(=O)NC(C)[C:2](OC(=NC1CCCCC1)NC1CCCCC1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7666,"CC(CC1=CC=NC=C1)(CC1=CC=NC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3406,"CC(C)(C)O.CCOC(=O)[CH:1](C(C1=CC=CC=C1)[O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9008,"C[NH+:1]=[CH:2]N.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7809,"C=[O+][Si-:1](C)(C)(C)[F:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6531,"CO[C:1](Cl)([NH+:2](C)C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7338,"CC1=C(O[Si](C(C)C)(C(C)C)C(C)C)CCC(C)(CO)C1.CC1=CC(C(C)(C)C)=NC(C(C)(C)C)=C1.COCC1OC(S(=[O+][S:1](C)(=O)([O-:2])[O:3]S(C)(=O)=O)C2=CC=CC=C2)C(OC)C(OC)C1OC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3254,"CC(C)O.CC(C)[O][Al:1]([O]C(C)C)[O]C(C)C.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC(=[O:2])CC321|(2, 1)"
train,pmechdb_split_0,0,7767,"O[C:1]1([O-:2])C2CCC[CH:3]21.[Cl-].[K+].[K][OH+:4][H:5]|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1460,"CO[C:1](C)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9057,"CO[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8693,"CC1(O)CC[C:1](=[O:2])[CH:3]1[H:4].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4283,"CC(C)[O-].CCC([O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C)C1CCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,8470,"CO[C:1](=[O:2])[CH:3]=[CH2:4].N#[C-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9351,"C1=CC=CC=C1.C1C[NH+:1]([H:2])CCO1.O=C1CCCC(N2CCOCC2)([O-:3])C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6270,"CC(=O)OC1=C2OC3C(=O)C(C4=CC=CC=C4)CC4(OC(C)=O)C5CC(=C2C34CC[N+]5(C)[C:1](=[N-:2])[Br:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5040,"CCOC(=O)C(C=C(C)[NH:1]C)[C:2](C)=[O:3].C[NH3+].O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2474,"C1=COC(C[NH2:1])=C1.CC1=CCC(C)([O-])[N+:2]1(CC1=CC=CO1)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2947,"C1=CC=C(C[O+:1]=[CH2:2])C=C1.C[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7448,"CC(=O)[O-:1].CCOC(NNC(=O)C1=CC=C(F)C=C1)[N+:2]1([H:3])CCN(C2=C(F)C=C3C(=O)C(C(=O)O)=CN(C4CC4)C3=C2)CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6370,"CC1(C)CCC[CH:1]1[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1307,"O=S(=O)(O)[C:1]1([H:2])OC=C(C(F)(F)F)[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3143,"CCOC(=O)C1(C#N)CCC(C)C(C(=O)OCC)(C(=O)OCC)C1C[C:1]([CH2:2][H:3])=[O:4].CO.C[O:5][Na]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5640,"CC(=O)C1=CC=CC2=C1C=C[CH+:1][C:2]2(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3463,"C1=C[N:1]=CN1.CC[C:2](OC1=CC=C([N+](=O)[O-])C=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10184,"O[CH+:1][SH:2]|(2, 1)"
train,pmechdb_split_0,0,3603,"CCO[C+:1]1C=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
